US20010007873A1
G. 3-Cyclopentyl-4-[6-(2, 5-d imethyl-pyrrol-1-yl)-pyridin-2-yl]-phenol
Prepared by a reduction of 2-(2-cyclopentyl-4-benzyloxy-phenyl)-6-(2,5-dimethyl-pyrrol-1-yl)-pyridine with ammonium formate and 20% palladium hydroxide on carbon (Pd(OH)2 on C), as described in Example 1F, in 48% yield.

reactant | 2-(2-cyclopentyl-4-benzyloxy-phenyl)-6-(2,5-dimethyl-pyrrol-1-yl)-pyridine | C1(CCCC1)C1=C(C=CC(=C1)OCC1=CC=CC=C1)C1=NC(=CC=C1)N1C(=CC=C1C)C | C29H30N2O
reactant | ammonium formate | C(=O)[O-].[NH4+]
catalyst | palladium hydroxide on carbon | [OH-].[OH-].[Pd+2]
product | 3-Cyclopentyl-4-[6-(2, 5-d imethyl-pyrrol-1-yl)-pyridin-2-yl]-phenol | 48% yield | C1(CCCC1)C=1C=C(C=CC1C1=NC(=CC=C1)N1C(=CC=C1C)C)O | C22H24N2O
